US03959322
13β-Isobutyl-17β-hydroxy-gon-4-en-3-one
Add to a mixture of concentrated hydrochloric acid (4.8 cc.), water (3.2 cc.) and methanol (.72 cc.) 13β-isobutyl-3-methoxy-gona-2,5(10)-dien-17β-ol (2.0 g.). Heat the resulting solution on a steam bath for 30 minutes with stirring. Cool to room temperature, dilute the solution with water (160 cc.) and extract with ether. Wash the ethereal solution with water, sodium bicarbonate, and water, dry over anhydrous sodium sulfate. Filter and remove the solvent under reduced pressure to give a gum. Recrystallize from ethyl acetate to obtain the title compound (0.8 g., 43%, m.p. 124.0°-125.5°; ultraviolet absorption peak at 240 mμ (ε18,200).

reactant | hydrochloric acid | 4.8 cc | Cl | ClH
reactant | methanol | .72 cc | CO | CH4O
reactant | 13β-isobutyl-3-methoxy-gona-2,5(10)-dien-17β-ol | 2.0 g | C(C(C)C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)O | C22H34O2
solvent | water | 160 cc | O | H2O
solvent | water | 3.2 cc | O | H2O
product | 13β-Isobutyl-17β-hydroxy-gon-4-en-3-one | C(C(C)C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C21H32O2
